US08022075B2
2-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-4,5-dihydro-1,3-oxazole
Subsequently, 2-amino-5-iodopyridine (88 mg) and 2-bromo-1-[4-(4,5-dihydro-1,3-oxazol-2-yl)phenyl]-1-ethanone mg) were dissolved in ethanol (7 mL), and sodium hydrogencarbonate (34 mg) was added to the solution, followed by refluxing for 13 hours. Dichloromethane-methanol solution was added to the reaction mixture, and the mixture was washed with water and saturated saline, followed by drying over sodium sulfate anhydrate. The solvent was evaporated, and the residue was subjected to silica gel chromatography. Fractions eluted by dichloromethane-methanol (100:5) were concentrated under reduced pressure, to thereby yield the title compound (89 mg).

reactant | 2-amino-5-iodopyridine | 88 mg | NC1=NC=C(C=C1)I | C5H5IN2
reactant | 2-bromo-1-[4-(4,5-dihydro-1,3-oxazol-2-yl)phenyl]-1-ethanone | BrCC(=O)C1=CC=C(C=C1)C=1OCCN1 | C11H10BrNO2
reactant | sodium hydrogencarbonate | 34 mg | C(O)([O-])=O.[Na+]
reactant | Dichloromethane methanol | ClCCl.CO
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 2-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-4,5-dihydro-1,3-oxazole | 89 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C=2OCCN2 | C16H12IN3O
